US08222245B2
1,1-Dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A suspension of 1,1-dimethylethyl 9-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 64) (5.1 g, 18.59 mmol), hydroxylamine hydrochloride (2.58 g, 37.2 mmol) and sodium bicarbonate (7.81 g, 93 mmol) in ethanol (50 ml) was heated at 60° C. overnight. A further portion of hydroxylamine hydrochloride (1 g) was added and the reaction was heated at 60° C. overnight. The solid was filtered from the reaction mixture and the filtrate evaporated. The residue from the evaporation was dissolved in EtOAc, washed with water, dried over magnesium sulphate and evaporated. Trituration with ether to gave the title compound (3.94 g) as a white solid. MS (ES): C15H21N3O4 requires 307; found 308 [M+H]+.

reactant | 1,1-dimethylethyl 9-cyano-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 18.59 mmol, 5.1 g | C(#N)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C15H18N2O3
reactant | hydroxylamine hydrochloride | 37.2 mmol, 2.58 g | Cl.NO
reactant | sodium bicarbonate | 93 mmol, 7.81 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 1 g | Cl.NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 3.94 g | ONC(C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)=N | C15H21N3O4
